US07268152B2
Synthesis of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde
To a solution of 79 mg (0.2 mmol) of 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzonitrile in 10 mL of THF was added 11.3 mg (0.3 mmol) of lithium aluminum hydride and the mixture was warmed to reflux. After 18 hours, all the solvent escaped. The reaction was cooled to room temperature, THF was added, and the reaction was quenched with water and extracted with EtOAc. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by preparative TLC (silica gel, toluene-EtOAc (95:5)) to leave an oil. A second purification by preparative TLC (silica gel, hexanes-EtOAc (9:1)) afforded 15 mg (18%) of the title compound as an oil which partially solidified.

reactant | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzonitrile | 0.2 mmol, 79 mg | FC=1C=CC(=C(C1)C(CC(CC1=CC=C(C#N)C=C1)(C(F)(F)F)O)(C)C)OC | C21H21F4NO2
reactant | lithium aluminum hydride | 0.3 mmol, 11.3 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentyl]benzaldehyde | 15 mg, 18% | FC=1C=CC(=C(C1)C(CC(CC1=CC=C(C=O)C=C1)(C(F)(F)F)O)(C)C)OC | C21H22F4O3
